US06555571B2
(Step 1) 7-Methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-one
7-Methoxymethoxy-3-(4-methoxymethoxyphenyl)chroman-4-one(57.4 g, 0.167 mol) (see, Helv. Chim. Acta., 75, 2, 1992, 457-470) was dissolved in acetone(1100 ml), potassium carbonate(230 g, 1.67 mol) and methyl iodide(104 ml, 1.67 mol) were added thereto in order, and the resulting mixture was stirred for 5 days at room temperature. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer thus obtained was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography(eluent:n-hexane/ethyl acetate=8/1, v/v) to give the title compound(49.2 g, Yield 82%) as a colorless oil.

reactant | 7-Methoxymethoxy-3-(4-methoxymethoxyphenyl)chroman-4-one | 0.167 mol, 57.4 g | COCOC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)OCOC)=O | C19H20O6
reactant | potassium carbonate | 1.67 mol, 230 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.67 mol, 104 ml | CI | CH3I
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetone | 1100 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-one | 49.2 g, Yield 82% | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)=O | C20H22O6
